US04698352
In a mixture consisting of 5 ml of methanol and 5 ml of a 1N aqueous sodium hydroxide solution was dissolved 0.5 g of methyl 6-(cyclohexen-4-yl)-1-(4-hydroxyphenyl)-4-oxo-1,4-dihydronicotinate, and they wre reacted at room temperature for 30 minutes. After completion of the reaction, the reaction mixture was adjusted to a pH of 5.5 with acetic acid, and the precipitated crystals were collected by filtration, washed with 30 ml of water, and dried to obtain 0.35 g of 6-(cyclohexen-4-yl)-1-(4-hydroxyphenyl)-4-oxo-1,4-dihydronicotinic acid having a melting point of 250° C. or more.

reactant | methanol | 5 ml | CO | CH4O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | methyl 6-(cyclohexen-4-yl)-1-(4-hydroxyphenyl)-4-oxo-1,4-dihydronicotinate | 0.5 g | C1=CCC(CC1)C=1N(C=C(C(=O)OC)C(C1)=O)C1=CC=C(C=C1)O | C19H19NO4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-(cyclohexen-4-yl)-1-(4-hydroxyphenyl)-4-oxo-1,4-dihydronicotinic acid | 0.35 g | C1=CCC(CC1)C=1N(C=C(C(=O)O)C(C1)=O)C1=CC=C(C=C1)O | C18H17NO4
